US05232940
To stirred 80% sulphuric acid (22 ml) was added 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (3.98 g) at 80° C. After 1 hour, the cooled solution was poured onto ice and extracted with dichloromethane (3×). The combined extracts were washed with water, dried over anhydrous magnesium sulphate, filtered, and evaporated in vacuo to give a white solid. This solid was recrystallized from ethyl acetate-petroleum ether to give 5-amino-4-carbamoyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (3.5 g), m.p. 169°-171° C. in the form of white crystals.

reactant | sulphuric acid | 22 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 3.98 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C#N | C12H4Cl2F6N4
product | 5-amino-4-carbamoyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 3.5 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C(N)=O | C12H6Cl2F6N4O
